US07932250B2
1-(5-Nitro-2-pyridinyl)-4-piperidinol
To a suspension of 11.0 g (6.3 mmol) of 2-chloro-5-nitropyridine in 20 mL of n-propanol was added 1.9 g (18.9 mmol) of 4-hydroxypiperidine, and the mixture was stirred for 1.5 hours at 100° C. After cooling the reaction mixture, the solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:dichloromethane/methanol=50/1) to give 1.37 g (97%) of the title compound.

reactant | 2-chloro-5-nitropyridine | 6.3 mmol, 11.0 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-hydroxypiperidine | 18.9 mmol, 1.9 g | OC1CCNCC1 | C5H11NO
solvent | n-propanol | 20 mL | C(CC)O | C3H8O
product | 1-(5-Nitro-2-pyridinyl)-4-piperidinol | 1.37 g, 97% | [N+](=O)([O-])C=1C=CC(=NC1)N1CCC(CC1)O | C10H13N3O3
